US07098207B2
2-Heptanoylaminopropionic Acid
30 g (291 mmol) of D,L-alanine methyl ester hydrochloride and 64.77 g (640 mmol) of triethyl)amine are initially charged in 300 ml of dry methylene chloride at 0° C. 43.24 g (291 mmol) of heptanoyl chloride in 50 ml of methylene chloride are added dropwise. The mixture is allowed to warm to RT and stirred at this temperature for 2 h. The precipitate is filtered off and the methylene chloride phase is extracted with saturated sodium bicarbonate solution and wraith saturated sodium chloride solution and dried over sodium sulfate. The solvent is removed under reduced pressure and the residue is dissolved in 300 ml of methanol. 300 ml of water, in which 46.55 g (1164 mmol) sodium hydroxide are dissolved, are added to this solution, and the mixture is stirred at RT for 2 h. The mixture is filtered, the methanol is evaporated using a rotary evaporator and the aqueous phase that remains is acidified to pH 1–2 using conc. Hcl. The precipitated product is filtered off and dried. Extraction of the aqueous phase with ethyl acetate gives a second product fraction.

reactant | D,L-alanine methyl ester hydrochloride | 291 mmol, 30 g | Cl.COC(C(N)C)=O
reactant | heptanoyl chloride | 291 mmol, 43.24 g | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | water | 300 ml | O | H2O
reactant | sodium hydroxide | 1164 mmol, 46.55 g | [OH-].[Na+]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-Heptanoylaminopropionic Acid | C(CCCCCC)(=O)NC(C(=O)O)C | C10H19NO3
